US04999426
6.4 g of 2-methoxyacrolein are stirred for 1 hour at 30°-35° C. with 4.4 g of N,N-dimethylhydrazine in 50 ml of ether, dried at 20° C. with Na2SO4 and then the solvent is removed. Distillation at 74°-76° C./13 mbar gives 6.2 g of pure 2-methoxy-4-dimethylamino-4-azabutadiene.

reactant | 2-methoxyacrolein | 6.4 g | COC(C=O)=C | C4H6O2
reactant | N,N-dimethylhydrazine | 4.4 g | CN(N)C | C2H8N2
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-methoxy-4-dimethylamino-4-azabutadiene | 6.2 g | COC(=C)C=NN(C)C | C6H12N2O
